US09169254B2
Deoxo-Fluor (5 mg, 0.02 mmol) was added to a solution of cis-4-(3-hydroxy-propoxy)-cyclohexanecarboxylic acid tert-butyl ester (3.9 mg, 0.015 mmol) in dichloromethane (0.1 ml), and the mixture was stirred at room temperature for two hours. An aqueous sodium bicarbonate solution was added to the reaction mixture, followed by extraction with dichloromethane. The organic layer was then dried over MgSO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give cis-4-(3-fluoro-propoxy)-cyclohexanecarboxylic acid tert-butyl ester (3.1 mg, 79%).

reactant | Deoxo-Fluor | 0.02 mmol, 5 mg | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | cis-4-(3-hydroxy-propoxy)-cyclohexanecarboxylic acid tert-butyl ester | 0.015 mmol, 3.9 mg | C(C)(C)(C)OC(=O)[C@@H]1CC[C@@H](CC1)OCCCO | C14H26O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 0.1 ml | ClCCl | CH2Cl2
product | cis-4-(3-fluoro-propoxy)-cyclohexanecarboxylic acid tert-butyl ester | 3.1 mg, 79% | C(C)(C)(C)OC(=O)[C@@H]1CC[C@@H](CC1)OCCCF | C14H25FO3
